US08232278B2
Synthesis of 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
To a mixture of 6-(4-fluorophenyl)-pyrido[3,2-d]-pyrimidin-4(3H)one (482 mg, 2 mmol) in toluene (20 ml), was added diisopropylethylamine (1.0 ml, 6 mmol) and phosphorus oxychloride (0.56 ml, 6 mmol). The reaction mixture was refluxed for 1 hour. After concentration under reduced pressure, the residue was extracted with dichloromethane (100 ml), and washed with ice water till pH 6-7. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure yielding the title compound as a yellowish solid (0.50 g, yield 96%) which was characterised as follows: Rf=0.90 (MeOH/CH2Cl2=1/9).

reactant | 6-(4-fluorophenyl)-pyrido[3,2-d]-pyrimidin-4(3H)one | 2 mmol, 482 mg | FC1=CC=C(C=C1)C=1C=CC=2N=CNC(C2N1)=O | C13H8FN3O
reactant | diisopropylethylamine | 6 mmol, 1.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphorus oxychloride | 6 mmol, 0.56 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 0.50 g, yield 96% | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C13H7ClFN3
